US09086390B2
32 g of dabigatran etexilate were suspended in 320 mL of deionized water. 5.4 g of methanesulfonic acid were added. The reaction mixture was heated to 50° C. and stirred at this temperature for 72 hours. The resulting mixture was filtered, and the solid was dried under vacuum. The solid was purified by column chromatography, eluting with ethyl acetate:methanol (15:1 v/v) mixture. After solvent evaporation of the selected fractions containing the desired compound, 15 g of ethyl 3-{[(2-{[(4-{[({hexyloxy}carbonyl)amino]carbonyl}-phenyl)amino]methyl}-1-methyl-1H-benzimidazol-5-yl)carbonyl](pyridin-2-yl)amino}propanoate were obtained.

reactant | dabigatran etexilate | 32 g | CCCCCCOC(=O)/N=C(/C=1C=CC(=CC1)NCC2=NC=3C=C(C=CC3N2C)C(=O)N(CCC(=O)OCC)C=4C=CC=CN4)\N | C34H41N7O5
reactant | methanesulfonic acid | 5.4 g | CS(=O)(=O)O | CH4O3S
reactant | water | 320 mL | O | H2O
product | ethyl 3-{[(2-{[(4-{[({hexyloxy}carbonyl)amino]carbonyl}-phenyl)amino]methyl}-1-methyl-1H-benzimidazol-5-yl)carbonyl](pyridin-2-yl)amino}propanoate | 15 g | C(CCCCC)OC(=O)NC(=O)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)C(=O)N(CCC(=O)OCC)C2=NC=CC=C2 | C34H40N6O6
